US05185354
Production of N-[2-(isopropylsulfinyl)thiazol-5-ylmethyl]-4-chloro-3-ethyl-1-methylpyrazole-5-carboxamide (compound No. 20 in Table 1)
0.65 g of N[2-(isopropylthio)thiazol-5-ylmethyl]-4-chloro-3-ethyl-1-methylpyrazole-5-carboxamide was dissolved in 20 ml of chloroform, to which was added little by little 0.40 g of metachloroperbenzoic acid, and the mixture was stirred at room temperature overnight. The resultant solution was washed with saturated aqueous sodium hydrogencarbonate, then with saturated aqueous sodium chloride, and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica-gel chromatography (developing solvent: ethyl acetate/hexane=2/1) to obtain 0.46 g of the titled compound.

reactant | N[2-(isopropylthio)thiazol-5-ylmethyl]-4-chloro-3-ethyl-1-methylpyrazole-5-carboxamide | 0.65 g | C(C)(C)SC=1SC(=CN1)CNC(=O)C1=C(C(=NN1C)CC)Cl | C14H19ClN4OS2
reactant | metachloroperbenzoic acid | 0.40 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[2-(isopropylsulfinyl)thiazol-5-ylmethyl]-4-chloro-3-ethyl-1-methylpyrazole-5-carboxamide | 0.46 g | C(C)(C)S(=O)C=1SC(=CN1)CNC(=O)C1=C(C(=NN1C)CC)Cl | C14H19ClN4O2S2
